US05134123
In an analogous manner to that described in Example 13, by reacting (1RS,2R,3S)-3-amino-4-cyclohexyl-1-(2-furyl)-1,2-butanediol with N-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamoyl]-3-(2,4-dinitrophenyl)-L-histidine there was obtained (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3RS)-1-(cyclohexylmethyl)-2,3-dihydroxy-3-(2-furyl)propyl]imidazole-4-propionamide (1:1 mixture of epimers) as a pale yellow solid, MS: 657 (M+H)+. The more polar epimer, (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3R or S)-1-(cyclohexylmethyl)-2,3-dihydroxy-3-(2-furyl)propyl]imidazole-4-Propionamide, MS: 657 (M+H) can be separated from the above mixture by chromatography.

reactant | (1RS,2R,3S)-3-amino-4-cyclohexyl-1-(2-furyl)-1,2-butanediol | N[C@H]([C@H](C(O)C=1OC=CC1)O)CC1CCCCC1 | C14H23NO3
reactant | N-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamoyl]-3-(2,4-dinitrophenyl)-L-histidine | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@@H](CC1=CN=CN1C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C(=O)O)CC1=CC=CC=C1 | C26H29N5O9S
product | (S)-α-[(S)-α-[(t-butylsulphonyl)methyl]hydrocinnamamido]-N-[(1S,2R,3RS)-1-(cyclohexylmethyl)-2,3-dihydroxy-3-(2-furyl)propyl]imidazole-4-propionamide | C(C)(C)(C)S(=O)(=O)C[C@H](C(=O)N[C@H](C(=O)N[C@H]([C@H](C(C=1OC=CC1)O)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C34H48N4O7S
